US04141901
To a solution of 2',5-dichloro-2-(3-carbobenzoxyaminomethyl-5-chloromethyl-4H-1,2,4-triazol-4-yl)-benzophenone (1.32 g) in methanol (20 ml) and chloroform (20 ml), potassium iodide (0.4 g) and diethylamine (3 ml) are added, and the resultant mixture is refluxed for 5 hours. The reaction mixture is evaporated under reduced pressure to remove the solvent, and the residue is extracted with ethyl acetate. The ethyl acetate layer is washed with water, dried, and evaporated under reduced pressure to remove the ethyl acetate. The residue is treated with ether to give 2',5-dichloro-2-(3-carbobenzoxyaminomethyl-5-diethylaminomethyl-4H-1,2,4-triazol-4-yl)-benzophenone (1.1 g). The product is recrystallized from ether-ethyl acetate to give crystals melting at 89° to 94° C.

reactant | 2',5-dichloro-2-(3-carbobenzoxyaminomethyl-5-chloromethyl-4H-1,2,4-triazol-4-yl)-benzophenone | 1.32 g | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1CCl)CNC(=O)OCC1=CC=CC=C1)=O | C25H19Cl3N4O3
reactant | potassium iodide | 0.4 g | [I-].[K+]
reactant | diethylamine | 3 ml | C(C)NCC | C4H11N
solvent | methanol | 20 ml | CO | CH4O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2',5-dichloro-2-(3-carbobenzoxyaminomethyl-5-diethylaminomethyl-4H-1,2,4-triazol-4-yl)-benzophenone | 1.1 g | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1CN(CC)CC)CNC(=O)OCC1=CC=CC=C1)=O | C29H29Cl2N5O3
